US06417202B1
3,6-Dimethyl-4-oxo-2-(4-pyridyl)-4,5,6,7-tetrahydro-1H-indole
According to the literature procedure (Chiswell, B. Inorganica Chimica Acta. 1972, 629), a mixture of 1-hydroxyimino-1-(4-pyridyl)-2-propanone (Tanaka, A et. al., Chem. Pharm. Bull., 1992, 40, 3206) (0.49 g, 3.0 mmol), 5-methyl-1,3-cyclohexanedione (0.38 g, 3.0 mmol), glacial acetic acid (2.4 mL) and H2O (0.6 mL) was stirred vigorously at room temperature. To this flask, zinc dust (0.6 g) was added slowly keeping the temperature below 60° C. Afer addition, the resulting brown solution was heated under reflux condition for 2 hours. After cooling down to room temperature, the reaction mixture was basified by an addition of 2 M aqueous NaOH, then filtered. The filtrate was extracted with CH2Cl2 (20 mL×3), the combined organic layer was dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography (1-5:1 EtOAc-Hexane then EtOAc only) to give the desired product (0.12 g, 17% yield).

reactant | 1-hydroxyimino-1-(4-pyridyl)-2-propanone | ON=C(C(C)=O)C1=CC=NC=C1 | C8H8N2O2
reactant | 5-methyl-1,3-cyclohexanedione | 3.0 mmol, 0.38 g | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 2 M | [OH-].[Na+]
catalyst | zinc | 0.6 g | [Zn] | Zn
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 0.6 mL | O | H2O
product | 3,6-Dimethyl-4-oxo-2-(4-pyridyl)-4,5,6,7-tetrahydro-1H-indole | 0.12 g, 17% yield | CC1=C(NC=2CC(CC(C12)=O)C)C1=CC=NC=C1 | C15H16N2O
